US07265227B2
N-[4-[4-(3,4-Dichlorophenoxy)-1-piperidinyl]-1-oxobutyl]-4-methyl-benzenesulfonamide (an example of a compound of formula (Ic))
4-(3,4-Dichlorophenoxy)-1-piperidinebutanoic acid hydrochloride (0.250 g) was dissolved in dichloromethane (10 mL) containing p-toluenesulfonamide (0.142 g), dimethylaminopyridine (92 mg) and EDCI (0.158 g) were added. The solution was stirred at room temperature for 4 days. The solvent was evaporated. The crude product was dried in vacuo and then purified by HPLC (at column dilution, gradient ammonium acetate/acetonitrile 75% to 5% ;Waters Xterra® column) and to give the title compound (42 mg).

reactant | 4-(3,4-Dichlorophenoxy)-1-piperidinebutanoic acid hydrochloride | 0.250 g | Cl.ClC=1C=C(OC2CCN(CC2)CCCC(=O)O)C=CC1Cl
reactant | p-toluenesulfonamide | 0.142 g | CC=1C=CC(=CC1)S(=O)(=O)N | C7H9NO2S
reactant | dimethylaminopyridine | 92 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | EDCI | 0.158 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-[4-[4-(3,4-Dichlorophenoxy)-1-piperidinyl]-1-oxobutyl]-4-methyl-benzenesulfonamide | 42 mg | ClC=1C=C(OC2CCN(CC2)CCCC(=O)NS(=O)(=O)C2=CC=C(C=C2)C)C=CC1Cl | C22H26Cl2N2O4S
